US07220777B2
1-[2-(2-methoxy-4-nitro-phenoxy)-ethyl]-azetidine (53.5 mg, 0.21 mmol) was dissolved in a 1:1 mixture of THF and ethanol (7 ml) and 10% palladium on carbon paste (150 mg) introduced. The reaction mixture was stirred under an atmosphere of hydrogen for 50 hours at RT. The catalyst was filtered off over filter-aid and the filtrate evaporated to give 4-[2-azetidin-1-yl-ethoxy]-3-methoxy-phenylamine as a brown oil (47 mg, 100%). This material was treated with 3-phenoxyphthalic anhydride in the same manner as for 4-(2-diisopropylamino-ethoxy)-3-methoxy-phenylamine in Example A4 to give the title compound.

reactant | 1-[2-(2-methoxy-4-nitro-phenoxy)-ethyl]-azetidine | 0.21 mmol, 53.5 mg | COC1=C(OCCN2CCC2)C=CC(=C1)[N+](=O)[O-] | C12H16N2O4
solvent | THF | C1CCOC1 | C4H8O
solvent | ethanol | 7 ml | C(C)O | C2H6O
catalyst | palladium on carbon | [Pd] | Pd
product | 4-[2-azetidin-1-yl-ethoxy]-3-methoxy-phenylamine | 47 mg, 100% | N1(CCC1)CCOC1=C(C=C(C=C1)N)OC | C12H18N2O2
